US06518423B1
Ethyl 1-(1-benzylpiperidin-4-yl)cyclopropane carboxylate
13 ml of diisopropylamine was dissolved in a solvent mixture of tetrahydrofuran (140 ml) with HMPA (15 ml) in a nitrogen atmosphere and cooled to −78° C. Into the obtained solution was dropped 42 ml of a 2.5 M solution of n-butyllithium in hexane and the resulting mixture was stirred at 0° C. for 30 minutes. After cooling to −78° C. again, 15 ml of a solution of 5.8 g of ethyl (1-benzylpiperidin-4-yl)acetate in tetrahydrofuran was dropped thereinto. The reaction mixture was stirred at 0° C. for 1 hour. Then 1,2-dibromoethane was dropped thereinto at −78° C. again. The reaction mixture was stirred at 0° C. for 30 minutes and then brought back to room temperature. Next, it was distributed into water and ethyl acetate. The organic layer was extracted, washed with water and dried over magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 1.40 g of ethyl 2-(1-benzyl-4-piperidyl)-4-bromobutanoate as a colorless oily substance. A solution of 1.40 g of ethyl 2-(1-benzyl-4-piperidyl)-4-bromobutanoate in tetrahydrofuran (20 ml) was stirred at room temperature and 1.0 g of t-butoxypotassium was added thereto. The reaction mixture was distributed into water and ethyl acetate. The organic layer was extracted and washed with water. After distilling off the solvent under reduced pressure, the obtained residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 800 mg of the title compound as a colorless oily substance.

reactant | ethyl 2-(1-benzyl-4-piperidyl)-4-bromobutanoate | 1.40 g | C(C1=CC=CC=C1)N1CCC(CC1)C(C(=O)OCC)CCBr | C18H26BrNO2
reactant | t-butoxypotassium | 1.0 g | C(C)(C)(C)O[K]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Ethyl 1-(1-benzylpiperidin-4-yl)cyclopropane carboxylate | 800 mg | C(C1=CC=CC=C1)N1CCC(CC1)C1(CC1)C(=O)OCC | C18H25NO2
